US04081528
Magnesium ions combine with tetracycline in solution to form magnesium-tetracycline chelates. Magnesium oxide is a convenient and preferred source of magnesium ions, but other magnesium compounds useful for the purpose of this invention include magnesium chloride, magnesium acetate and magnesium sulfate. The molar ratio of magnesium to tetracycline in these compositions is about from 0.8 to 1.3 mole. This ratio is advisable to produce clear stable solutions.

reactant | Magnesium | [Mg] | Mg
reactant | tetracycline | C[C@]1(C=2C=CC=C(C2C(=O)C3=C([C@]4([C@@H](C[C@@H]31)[C@@H](C(=C(C4=O)C(=O)N)O)N(C)C)O)O)O)O | C22H24N2O8
product | magnesium tetracycline | [Mg].C[C@]1(C=2C=CC=C(C2C(=O)C3=C([C@]4([C@@H](C[C@@H]31)[C@@H](C(=C(C4=O)C(=O)N)O)N(C)C)O)O)O)O | InChI=1S/C22H24N2O8.Mg/c1-21(31)8-5-4-6-11(25)12(8)16(26)13-9(21)7-10-15(24(2)3)17(27)14(20(23)30)19(29)22(10,32)18(13)28;/h4-6,9-10,15,25,27-28,31-32H,7H2,1-3H3,(H2,23,30);/t9-,10-,15-,21+,22-;/m0./s1
